US09029395B2
Ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (for a preparation see Intermediate 16) (6.6 g, 18.73 mmol), 1-bromo-4-chlorobenzene (3.94 g, 20.60 mmol), bis(dibenzylideneacetone)palladium (0) (690 mg, 1.2 mmol) and [2′-(dicyclohexylphosphanyl)-2-biphenylyl]dimethylamine (Dave-phos) (590 mg, 1.499 mmol)) were mixed in toluene (120 mL) and the resulting mixture was treated with sodium t-butoxide (2.52 g, 26.2 mmol). The reaction was degassed under house vacuum with several quenches with nitrogen, heated at 70° C. under nitrogen for 16 h, then was allowed to cool to room temperature and filtered. The insoluble residue was washed with toluene and then Et2O. The combined filtrate and washings were washed with water (×2) then extracted with hydrochloric acid (2N, ×20, resulting in the precipitation of an orange oil which was collected with the aqueous acidic phases. The acidic extracts were washed with Et2O and the combined organic phases were washed with brine, dried (hydrophobic frit) and concentrated in vacuo. The residue was purified by chromatography on a silica cartridge (330 g), eluting with an EtOAc/cyclohexane gradient (5-45%). The appropriate fractions were combined and reduced to dryness in vacuo to give a pale yellow foam. This foam was dissolved in EtOAc (50 mL) and treated with functional thiourea silica (0.56 g, palladium scavenger). The mixture was stirred at room temperature (air atmosphere) for ˜20 min and then left at room temperature for 16 h. The mixture was filtered and the insoluble residues washed with EtOAc. The combined filtrate and washings were concentrated in vacuo to give ethyl 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoate (3.7 g, 8.0 mmol, 32%) as a yellow oil.

reactant | Ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)N)C | C21H24N2O3
reactant | 1-bromo-4-chlorobenzene | 20.60 mmol, 3.94 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | [2′-(dicyclohexylphosphanyl)-2-biphenylyl]dimethylamine | 1.499 mmol, 590 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium t-butoxide | 26.2 mmol, 2.52 g | CC(C)([O-])C.[Na+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 1.2 mmol, 690 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | ethyl 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoate | 8.0 mmol, 3.7 g, 32% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)NC1=CC=C(C=C1)Cl)C | C27H27ClN2O3
